US05858995
A suspension of 7-acetylamino-3-(1-hydroxy-1-methylethyl)-2-methylbenzo[b]furan (1.82 g) in a mixture of ethanol (15 ml) and 3N-aqueous sodium hydroxide (10 ml) was refluxed for 20 hours. The reaction mixture was cooled, diluted with water (20 ml) and evaporated in vacuo until the ethanol of the solution was removed. The separated solid was collected, washed with water and dried to give 7-amino-3-(1-hydroxy-1-methylethyl)-2-methylbenzo[b]furan (1.42 g).

reactant | 7-acetylamino-3-(1-hydroxy-1-methylethyl)-2-methylbenzo[b]furan | 1.82 g | C(C)(=O)NC1=CC=CC2=C1OC(=C2C(C)(C)O)C | C14H17NO3
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 7-amino-3-(1-hydroxy-1-methylethyl)-2-methylbenzo[b]furan | 1.42 g | NC1=CC=CC2=C1OC(=C2C(C)(C)O)C | C12H15NO2
